US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((6-(trifluoromethyl)pyridin-3-yl)methyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with (6-(trifluoromethyl)pyridin-3-yl)methanamine, the title compound was obtained as a colorless solid in 63% yield: 1H NMR (300 MHz, CDCl3) δ 8.70 (s, 1H), 7.89 (d, J=8.0 Hz, 1H), 7.65 (d, J=8.0 Hz, 1H), 7.30-7.23 (m, 2H), 7.08-6.99 (m, 2H), 6.20 (t, J=5.8 Hz, 1H), 6.09 (s, 1H), 4.65 (d, J=5.8 Hz, 2H), 4.43 (s, 2H), 3.85-3.77 (m, 2H), 3.49-3.40 (m, 2H), 2.49 (s, 3H); MS (ES+) m/z 493.2 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | (6-(trifluoromethyl)pyridin-3-yl)methanamine | FC(C1=CC=C(C=N1)CN)(F)F | C7H7F3N2
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((6-(trifluoromethyl)pyridin-3-yl)methyl)thiophene-2-carboxamide | 63% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2C=NC(=CC2)C(F)(F)F)C)=O)C=C1 | C23H20F4N4O2S
